US07449486B2
Step A: Preparation of tert-butyl 3-((S)-3-((S)-2-(tert-butyldiphenylsilyloxy)propanoyl)-5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate:
To a solution of tert-butyl 3-(5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate (0.54 g, 1.30 mmol) and (S)-2-(tert-butyldiphenylsilyloxy)propanoic acid (0.64 g, 1.95 mmol) in DMF (10 mL) was added PyBOP (1.01 g, 1.95 mmol) followed by DIEA (0.34 g, 2.60 mmol). After stirring at room temperature for 14 hours, the reaction mixture was partitioned between 10% Na2CO3 (100 mL) and ethyl acetate (100 mL). The aqueous layer was extracted with ethyl acetate (40 mL). The combined organics were washed with brine (100 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was chromatographed (1:9 to 1:4 ethyl acetate/hexanes) to provide the less polar diastereomer product (180 mg, 19%) as a yellow syrup.

reactant | tert-butyl 3-(5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | 1.30 mmol, 0.54 g | FC=1C=C(C=CC1)C1=NNC(S1)(C1=CC=CC=C1)CCCNC(OC(C)(C)C)=O | C22H26FN3O2S
reactant | (S)-2-(tert-butyldiphenylsilyloxy)propanoic acid | 1.95 mmol, 0.64 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H](C(=O)O)C | C19H24O3Si
reactant | PyBOP | 1.95 mmol, 1.01 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 2.60 mmol, 0.34 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-((S)-3-((S)-2-(tert-butyldiphenylsilyloxy)propanoyl)-5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | 180 mg, 19% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H](C(=O)N1[C@@](SC(=N1)C1=CC(=CC=C1)F)(C1=CC=CC=C1)CCCNC(OC(C)(C)C)=O)C | C41H48FN3O4SSi
